### PR TITLE
feat(LinearAlgebra/FreeProduct): fill out the `FreeProduct.asPowers` namespace

### PR DESCRIPTION
**Pull request by robertmaxton42**
* Replicate the existing API for `LinearAlgebra.FreeProduct` under `FreeProduct.asPowers`, for convenience when working primarily with the power algebra representation
* Adds convenience lemmas for using the corresponding quotient relation `rel'` (used in the above).

---

- [x] depends on: #24531

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 1]
```diff
@@ -27,14 +27,14 @@ general $R$-algebras.
...
   of the (infinite) direct sum of tensor powers of the `A i`.
 * `lift` is the universal property of the free product.
 
 ## Main results
 
-* `equivPowerAlgebra` establishes an equivalence between `FreeProduct R A` and
-  `FreeProduct_ofPowers R A`.
+* `equivAsPowers` establishes an equivalence between `FreeProduct R A` and
+  `FreeProduct.asPowers R A`.
 * `FreeProduct` is the coproduct in the category of `R`-algebras.
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:38]: Surely `FreeProduct` should come first in this list?

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 2]
```diff
@@ -110,6 +110,8 @@ variable {I : Type u} [DecidableEq I] {i : I} -- The type of the indexing set
   (maps : {i : I} → A i →ₐ[R] B) -- A family of `R`algebra homomorphisms
 
 namespace LinearAlgebra.FreeProduct
+open scoped Function TensorProduct
+
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:114]:
```suggestion

open scoped Function TensorProduct
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 3]
```diff
@@ -133,19 +141,62 @@ of tensor powers are (noncomputably) equivalent as `R`-algebras. -/
 /-- The generating equivalence relation for elements of the free tensor algebra
 that are identified in the free product -/
 inductive rel : FreeTensorAlgebra R A → FreeTensorAlgebra R A → Prop
+  /--`rel` relates the image of any `(1 : A i)` to `1`.-/
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:144]:
```suggestion
  /-- `rel` relates the image of any `(1 : A i)` to `1`. -/
```
Same below

@adomani, the docstring linter didn't catch this! 👮

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 4]
```diff
@@ -133,19 +141,62 @@ of tensor powers are (noncomputably) equivalent as `R`-algebras. -/
...
+  product in `A i`.-/
   | prod : ∀ {i : I} {a₁ a₂ : A i},
       rel
         (tprod R (⨁ i, A i) 2 (fun | 0 => lof R I A i a₁ | 1 => lof R I A i a₂))
         (ι R <| lof R I A i (a₁ * a₂))
 
-open scoped Function
+-- We reproduce `rel.id` and `.prod here to make `R, A, i...` explicit.
+@[inherit_doc rel.id]
+theorem rel_id (i : I) : rel R A (ι R <| lof R I A i 1) 1 := rel.id
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:155]: Can't you do this above by replacing `| id : ∀ {i : I}, ...` with `| id (R A i) : ...`?

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean (hunk 3 above)
Comment (adomani) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:144]: Wow, interesting!  Let me investigate!

Comment (adomani) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:144]: Ok, the reason is that the doc-string linter only inspects doc-strings contained in `declModifiers`.  This is mostly to avoid looking at `#adaptation_note`.  However, I agree that inspecting doc-strings of structure fields is also useful.  Let me see how to extend the linter!

Comment (adomani) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:144]: #24673.  Let's see what else it catches!

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean (hunk 4 above)
Comment (robertmaxton42) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:155]: Alas, no! It was the first thing I tried when I found out about the new depriming mechanism, but sadly it only works on classes, not inductive arms. See Kyle's answer [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Depriming.20fields/near/515586243).

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:155]: Sad!

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean (hunk 1 above)
Comment (robertmaxton42) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:38]: `FreeProduct R A` is listed first under "Main Definitions"; the thing that has to wait until the end is the fact that it's the coproduct (which is established by `lift` and doesn't appear until the end of the file).

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 5]
```diff
@@ -133,19 +141,62 @@ of tensor powers are (noncomputably) equivalent as `R`-algebras. -/
 /-- The generating equivalence relation for elements of the free tensor algebra
 that are identified in the free product -/
 inductive rel : FreeTensorAlgebra R A → FreeTensorAlgebra R A → Prop
+  /--`rel` relates the image of any `(1 : A i)` to `1`.-/
   | id  : ∀ {i : I}, rel (ι R <| lof R I A i 1) 1
+  /--`rel` relates the product of the images of two terms from the same `A i` to the image of their
```
Comment (robertmaxton42) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:146]:
```suggestion
  /-- `rel` relates the product of the images of two terms from the same `A i` to the image of their
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 6]
```diff
@@ -133,19 +141,62 @@ of tensor powers are (noncomputably) equivalent as `R`-algebras. -/
...
+  product in `A i`.-/
```
Comment (robertmaxton42) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:147]:
```suggestion
  product in `A i`. -/
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:38]: Oh I see

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 7]
```diff
@@ -220,6 +271,70 @@ irreducible_def ι (i : I) : A i →ₐ[R] FreeProduct R A :=
...
+abbrev of {i : I} : A i →ₐ[R] FreeProduct.asPowers R A := ι R A i
+
+end asPowers
+
+@[simp] theorem ι_equiv_ι aᵢ : asPowersEquiv R A (asPowers.ι R A i aᵢ) = ι R A i aᵢ := by
+  simp_rw [asPowersEquiv, asPowers.ι, ι, powerAlgebraEquivFreeTensorAlgebra, algEquivQuotAlgEquiv]
+  convert RingQuot.liftAlgHom_mkAlgHom_apply R _ _ _
+  aesop (add simp [Function.onFun, lof_eq_of])
+
+@[simp] theorem ι_equiv_ι' aᵢ : (asPowersEquiv R A).symm (ι R A i aᵢ) = asPowers.ι R A i aᵢ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:335]:
```suggestion
@[simp] theorem asPowersEquiv_symm_ι (aᵢ) :
    (asPowersEquiv R A).symm (ι R A i aᵢ) = asPowers.ι R A i aᵢ := by
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 8]
```diff
@@ -220,6 +271,70 @@ irreducible_def ι (i : I) : A i →ₐ[R] FreeProduct R A :=
...
+noncomputable irreducible_def ι (i : I) : A i →ₐ[R] FreeProduct.asPowers R A :=
+  AlgHom.ofLinearMap (ι' R A ∘ₗ DirectSum.lof R I A i)
+    (lof_map_one R A i) (mul_injections R A · · |>.symm)
+
+/-- The family of canonical injection maps, with `i` left implicit. -/
+abbrev of {i : I} : A i →ₐ[R] FreeProduct.asPowers R A := ι R A i
+
+end asPowers
+
+@[simp] theorem ι_equiv_ι aᵢ : asPowersEquiv R A (asPowers.ι R A i aᵢ) = ι R A i aᵢ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:330]:
```suggestion
@[simp] theorem asPowersEquiv_ι (aᵢ) : asPowersEquiv R A (asPowers.ι R A i aᵢ) = ι R A i aᵢ := by
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 9]
```diff
@@ -220,6 +271,70 @@ irreducible_def ι (i : I) : A i →ₐ[R] FreeProduct R A :=
...
+  simp_rw [asPowersEquiv, asPowers.ι, ι, powerAlgebraEquivFreeTensorAlgebra, algEquivQuotAlgEquiv]
+  convert RingQuot.liftAlgHom_mkAlgHom_apply R _ _ _
+  aesop (add simp [Function.onFun, lof_eq_of])
+
+@[simp] theorem ι_equiv_ι' aᵢ : (asPowersEquiv R A).symm (ι R A i aᵢ) = asPowers.ι R A i aᵢ := by
+  apply asPowersEquiv R A |>.injective
+  rw [ι_equiv_ι, AlgEquiv.apply_symm_apply]
```
Comment (robertmaxton42) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:337]:
```suggestion
  rw [asPowersEquiv_ι, AlgEquiv.apply_symm_apply]
```

**Comment by YaelDillies** [comment]
Don't forget to remove `awaiting-author` when you are done addressing the comments!

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 10]
```diff
@@ -220,6 +271,71 @@ irreducible_def ι (i : I) : A i →ₐ[R] FreeProduct R A :=
...
+           OneHom.coe_mk]
+
+/-- The injection into the free product of any `1 : A i` is the 1 of the free product. -/
+theorem identify_one (i : I) : ι' R A (DirectSum.lof R I A i 1) = 1 := by
+  suffices ι' R A (DirectSum.lof R I A i 1) = mkAlgHom R A 1 by simpa
+  exact RingQuot.mkAlgHom_rel R <| rel'_id R A (i := i)
+
+/-- Multiplication in the free product of the injections of any two `aᵢ aᵢ': A i` for
+the same `i` is just the injection of multiplication `aᵢ * aᵢ'` in `A i`. -/
+theorem mul_injections (a₁ a₂ : A i) :
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:301]:
```suggestion
theorem ι'_mul_ι' (a₁ a₂ : A i) :
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 11]
```diff
@@ -220,6 +271,71 @@ irreducible_def ι (i : I) : A i →ₐ[R] FreeProduct R A :=
...
+  (mkAlgHom R A).toLinearMap ∘ₗ PowerAlgebra.ι R A
+
+theorem ι_apply (x : ⨁ i, A i) :
+    ⟨Quot.mk (Rel <| rel' R A) (PowerAlgebra.ι R A x)⟩ = ι' R A x := by
+  simp_rw [ι', mkAlgHom, RingQuot.mkAlgHom, mkRingHom, LinearMap.coe_comp, comp_apply,
+           AlgHom.toLinearMap_apply, AlgHom.coe_mk, RingHom.coe_mk, MonoidHom.coe_mk,
+           OneHom.coe_mk]
+
+/-- The injection into the free product of any `1 : A i` is the 1 of the free product. -/
+theorem identify_one (i : I) : ι' R A (DirectSum.lof R I A i 1) = 1 := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:295]:
```suggestion
theorem ι'_one (i : I) : ι' R A (DirectSum.lof R I A i 1) = 1 := by
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 12]
```diff
@@ -220,6 +271,71 @@ irreducible_def ι (i : I) : A i →ₐ[R] FreeProduct R A :=
...
+
+/-- The canonical linear map from the direct sum of the `A i` to the free product. -/
+abbrev ι' : (⨁ i, A i) →ₗ[R] FreeProduct.asPowers R A :=
+  (mkAlgHom R A).toLinearMap ∘ₗ PowerAlgebra.ι R A
+
+theorem ι_apply (x : ⨁ i, A i) :
+    ⟨Quot.mk (Rel <| rel' R A) (PowerAlgebra.ι R A x)⟩ = ι' R A x := by
+  simp_rw [ι', mkAlgHom, RingQuot.mkAlgHom, mkRingHom, LinearMap.coe_comp, comp_apply,
+           AlgHom.toLinearMap_apply, AlgHom.coe_mk, RingHom.coe_mk, MonoidHom.coe_mk,
+           OneHom.coe_mk]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:292]: Can you make this into a simp call? something like
```suggestion
    ⟨Quot.mk (Rel <| rel' R A) (PowerAlgebra.ι R A x)⟩ = ι' R A x := by
  ext; simp
```

**Review by YaelDillies — COMMENTED** [review]
@eric-wieser, do you have mathematical thoughts here?

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean (hunk 12 above)
Comment (robertmaxton42) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:292]: Mmm... Almost; `RingQuot` doesn't have an ext for some reason.

```suggestion
    ⟨Quot.mk (Rel <| rel' R A) (PowerAlgebra.ι R A x)⟩ = ι' R A x := by  have ext {R : Type _} [Semiring R] (rel : R → R → Prop) {x y : RingQuot rel} :
    x.toQuot = y.toQuot → x = y := by cases x; cases y; simp
  apply ext
  simp [ι', RingQuot.mkAlgHom, mkRingHom]
```

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/FreeProduct/Basic.lean:292]: Ah then I would suggest adding that ext lemma!

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
